US06281356B1
3-(1-Methyl-1H-indol-3-yl)-4-[1-methyl-6-(1-methyl-1H-imidazol-2-yl)-1H-indol-3-yl]-pyrrole-2,5-dione (46 mg, 38%) was prepared from 3-(6-bromo-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione (120 mg, 0.28 mmol) and 1-methyl-2-(tributylstannyl)imidazole (0.8 mL, containing 50% 1-methyl-imidazole) (Molloy, K. C.; Waterfield, P. C.; Mahon, M. F. J. Organonetallic. Chem. 1989, 365, 61.)

reactant | 3-(6-bromo-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | 0.28 mmol, 120 mg | BrC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H16BrN3O2
reactant | 1-methyl-2-(tributylstannyl)imidazole | 0.8 mL | CN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC
product | 3-(1-Methyl-1H-indol-3-yl)-4-[1-methyl-6-(1-methyl-1H-imidazol-2-yl)-1H-indol-3-yl]-pyrrole-2,5-dione | 46 mg, 38% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)C=1N(C=CN1)C)C)=O)=O | C26H21N5O2
